US07713452B2
To a stirred mixture of 2,7-dibromo-3-methoxyfluorene (87.7 g, 0.244 mol), potassium t-butoxide (28 g, 0.25 mol) and dry methyl sulfoxide (500 mL) was added 1-bromopropane (22.6 mL, 0.25 mol) at such a rate as to keep the reaction exotherm temperature below 45° C. A further quantity of potassium t-butoxide (39.0 g; 0.35 mol) and 1-bromopropane (31.6 mL; 0.35 mol) were added. The resulting mixture was stirred at room temperature for 1 hour and treated with 50% methanol/water (500 mL). The purple color was discharged by addition of 6.0M hydrochloric acid (2.0 mL) and the mixture cooled at 0° C. for 1 hour. The crude product was collected and washed with 50% methanol/water (250 mL) and dried to yield crude product (106 g). Purification by extraction from neutral alumina (5 cm3) with hexane on an Ace-Kauffman column with hexane afforded 2,7-dibromo-9,9-dipropyl-3-methoxyfluorene (95 g; m. pt. 127-131.5° C.). Further purification by re-crystallization (2-propanol) gave pure product (84 g, yield 78%).

reactant | 2,7-dibromo-3-methoxyfluorene | 0.244 mol, 87.7 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1OC)Br | C14H10Br2O
reactant | potassium t-butoxide | 0.25 mol, 28 g | CC(C)([O-])C.[K+]
reactant | 1-bromopropane | 0.25 mol, 22.6 mL | BrCCC | C3H7Br
reactant | potassium t-butoxide | 0.35 mol, 39.0 g | CC(C)([O-])C.[K+]
reactant | 1-bromopropane | 0.35 mol, 31.6 mL | BrCCC | C3H7Br
reactant | hydrochloric acid | 6.0M, 2.0 mL | Cl | ClH
solvent | methanol water | 500 mL | CO.O
solvent | methyl sulfoxide | 500 mL | CS(=O)C | C2H6OS
product | 2,7-dibromo-9,9-dipropyl-3-methoxyfluorene | 95 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1OC)Br)(CCC)CCC | C20H22Br2O
